US05817671
5-(N-[cyclopentanecarbonyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.080 gm (0.348 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.093 mL (0.766 mMol) cyclopentanecarbonyl chloride, 0.095 gm (84%) of the title compound was recovered as an amorphous solid essentially by the procedure described in Example 4.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.348 mMol, 0.080 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | cyclopentanecarbonyl chloride | 0.766 mMol, 0.093 mL | C1(CCCC1)C(=O)Cl | C6H9ClO
product | 5-(N-[cyclopentanecarbonyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.095 gm, 84% | C1(CCCC1)C(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C19H26N4O
